US06627629B2
Part D. Preparation of [(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-[(3R,4S)-4-((R)-1-phenyl-ethylamino)-tetrahydrothiophen-3-yl]-methanone
A cloudy solution of (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid (containing sodium chloride; 928 mg, 2.54 mmol) in dichloromethane (20 mL) was treated with benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate (1.59 g, 3.05 mmol) and triethylamine (814 μL, 5.84 mmol) and stirred for 5 minutes. A solution of the (S)-3-(4-fluorobenzyl)-piperidine prepared above in dichloromethane (5 mL) was added and the mixture was stirred at room temperature. After 21.5 h , the mixture was diluted with dichloromethane, washed with water and saturated NaHCO3, dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (55% ethyl acetate/hexanes) to provide the product as a gum (1.05 g, 94%). 1H NMR (300 mHz, CDCl3) δ7.32 (m, 4H), 7.27 (m, 1H), 7.10 (m, 2H), 6.99 (m, 2H), 4.47 (m, 1H), 3.9-3.6 (m, 3H), 3.2 (m, 1H), 2.95 (m, 2H), 2.8-2.4 (m, 6H), 1.9-1.6 (m, 4H), 1.4 (m, 1H), 1.37 (m, 3H), 1.2 (m, 1H), ESI MS: (M+H)+=427.4.

reactant | (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid | 2.54 mmol, 928 mg | C1(=CC=CC=C1)[C@@H](C)N[C@H]1[C@@H](CSC1)C(=O)O | C13H17NO2S
reactant | benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate | 3.05 mmol, 1.59 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | triethylamine | 5.84 mmol, 814 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-3-(4-fluorobenzyl)-piperidine | FC1=CC=C(C[C@H]2CNCCC2)C=C1 | C12H16FN
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-[(3R,4S)-4-((R)-1-phenyl-ethylamino)-tetrahydrothiophen-3-yl]-methanone | 1.05 g, 94% | FC1=CC=C(C[C@H]2CN(CCC2)C(=O)[C@@H]2CSC[C@H]2N[C@H](C)C2=CC=CC=C2)C=C1 | C25H31FN2OS
